2117-02-14 07:00:00 Physician Resident Progress Note
Chief Complaint: Transfer from Hem./Onc. (CML) with Vtach.
   24 Hour Events:
   [**2-14**]
   One more episode of v tach, took 3 override pace attempts to revert to
   sinus. No more episodes. Lido at bedside.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsPercocet (Oral)
   (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Lisinopril (Oral)
   Cough;
   Zetia (Oral) (Ezetimibe)
   Diarrhea;
   Lipitor (Oral) (Atorvastatin Calcium)
   liver blood tes
   Lovastatin
   muscle cramps;
   Doxepin
   Drowsiness/Fati
   Boniva (Oral) (Ibandronate Sodium)
   Nausea/Vomiting
   Gleevec (Oral) (Imatinib Mesylate)
   Nausea/Vomiting
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   KCl (CRRT) - 5 mEq./hour
   Other ICU medications:
   Amiodarone - [**2117-2-14**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-2-14**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**18**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 85 (79 - 137) bpm
   BP: 116/51(67) {89/28(44) - 116/74(80)} mmHg
   RR: 16 (15 - 23) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 63 Inch
             Total In:
             286 mL
   PO:
             TF:
   IVF:
   286 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    330 mL
   Urine:
   330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   133 K/uL
   8.5 g/dL
   132 mg/dL
   1.8 mg/dL
   25 mEq/L
   6.1 mEq/L
   35 mg/dL
   106 mEq/L
   140 mEq/L
   25.8 %
   86.9 K/uL
        [image002.jpg]
                             [**2117-2-14**]  12:06 AM
                             [**2117-2-14**]  01:34 AM
   WBC
   86.9
   Hct
   25.8
   Plt
   133
   Cr
   1.1
   1.8
   Glucose
   73
   132
   Other labs: PT / PTT / INR:16.0/28.3/1.4, ALT / AST:40/41, Ca++:8.6
   mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Imaging: None
   Microbiology: None
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, SUSTAINED
 CANCER (MALIGNANT NEOPLASM), OTHER
   Assessment and Plan
   87yo woman with h/o CAD, Afib on dofetalide, h/o v tach s/p PPM/ICD,
   CML on Gleevec but not taking, type 2 diabetes mellitus, CKD, who
   initially presented to the BMT service with vertigo and vomiting on
   [**2117-2-5**], and a white count of 173 thought to be due to untreated CML.
   Now transferred to the CCU for management of v tach.
   .
   # Ventricular Tachycardia: Most likely etiology is hypokalemia in the
   setting of diuresis with lasix. Discontinuation of dofetalide may also
   be contributing. Another possibility includes tumor lysis syndrome,
   which is known to cause cardiac dysrythmias. However this is less
   likely in the setting of HYPOkalemia (usually hyperkalemia) and normal
   phosphate. Iatrogenic hyperthyroidism possible.
   Ischemia/hypoxia/infection less likely contributors. Per EP, pacer
   functioning appropriately.
   - Correct hypokalemia and hypomagnesemia stat
   - Recheck K and tumor lysis labs
   - Check TSH
   - If e/o increased tumor lysis will d/w hem/onc re slowing rate of
   chemotherapy
   - Continuous telemetry
   - Amiodarone bolus and drip
   - Continue metoprolol 25mg PO BID
   - ICD reset at overdrive pacing at rate of 128 with 8 escalating
   attempts until shock
   - Lidocaine at bedside in case overdrive pacing fails
   - EP consult closely following and their input is much appreciated
   - Goals of care clarified with patient and HCP [**Name (NI) 3353**] (daughter), pt is
   ok with ICD shocks, but does not want any external interventions beyond
   such as shocks, CPR, or intubation, even if she becomes unstable.
   Therefore, she is DNR/DNI.
   .
   # CML: Patient's white count at 87, coming down after Gleevec.
   - Continue Gleevec 400mg PO Daily (started [**2117-2-9**])
   - Prochlorazapine/zofran PRN nausea
   - [**Hospital1 **] tumor lysis labs
   - BMT recs
   - Allopurinol 100mg PO Daily for tumor lysis PPX (clarify with hem/onc
   if correct dose)
   .
   # Chronic systolic heart failure: Patient appears slightly
   hypervolemic. Would benefit from diuresis, however will hold off given
   v tach and electrolyte abnormalities.
   - Hold on diuresis for now
   - Continue metoprolol 25mg PO BID
   - Hold Irbesartan *NF* 75 mg PO Daily
   .
   # AFib/AFlutter: dofetilide initially held because of renal failure. No
   active issues at present. Coumadin also held for unclear reasons.
   - Clarify with hem/onc why holding coumadin
   - Continue metoprolol 25mg PO BID
   .
   # CKD: Stable, improved from baseline.
   - Consider restarting dofetilide, will d/w EP in AM
   - Monitor Cr
   .
   # CAD: No active issues.
   - Continue asa
   - No statin due to myopathy
   .
   # DM: No active issues.
   - Glargine 23 HS
   - SSI
   .
   # Hypothyroidism: No active issues.
   - Continue synthroid
   - Checking TSH
   .
   # FEN: Cardiac/diabetic diet
   .
   # ACCESS: 2 PIVs
   .
   # PROPHYLAXIS:
   -DVT ppx with pneumoboots for now
   -Pain management with acetaminophen
   -Bowel regimen with docusate/senna PRN
   .
   # CODE:  DNR/DNI but ICD to remain active
   .
   # COMM:  HCP is her daughter [**Name (NI) 3353**] [**Name (NI) 12380**]: [**Telephone/Fax (1) 12382**].  She DOES
   want her daughter notified regarding this current hospital admission.
   .
   # DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-2-13**] 11:57 PM
   22 Gauge - [**2117-2-13**] 11:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-2-13**] 11:57 PM
   22 Gauge - [**2117-2-13**] 11:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2117-02-15 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2117-2-15**] 12:10 AM
   - at 1130, patient went into VT at pace of 126-128, asymptomatic with
   blood pressure 110-120/60-70. EKG revealed wide QRS with northwest axis
   nearly identical in morphology to previous night. Patient was given 150
   mg IV amiodorone bolus. Called EP fellow. Remained in VT so lidocaine
   was given (bolus first then drip). EP fellow came and over-ride paced
   her back into sinus rhythm in the 80s.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Lisinopril (Oral)
   Cough;
   Zetia (Oral) (Ezetimibe)
   Diarrhea;
   Lipitor (Oral) (Atorvastatin Calcium)
   liver blood tes
   Lovastatin
   muscle cramps;
   Doxepin
   Drowsiness/Fati
   Boniva (Oral) (Ibandronate Sodium)
   Nausea/Vomiting
   Gleevec (Oral) (Imatinib Mesylate)
   Nausea/Vomiting
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Lidocaine - 1 mg/min
   Other ICU medications:
   Amiodarone - [**2117-2-14**] 11:36 PM
   Lidocaine - [**2117-2-15**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-2-15**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**18**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 85 (84 - 126) bpm
   BP: 103/44(58) {85/34(49) - 123/74(84)} mmHg
   RR: 20 (16 - 23) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 63 Inch
             Total In:
                                                                  1,173 mL
                                                                    165 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    813 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  1,535 mL
                                                                    530 mL
   Urine:
                                                                  1,535 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -362 mL
                                                                   -366 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General: alert, interactive, answers questions appropriately, but
   agitated when asked about location or date and refused to
answer those
   kinds of questions
 stating she
knows where she is.
   HENT: MMM, no scleral icterus
   PULM: CTAB, no wheezes or rhales
   CV: RRR, no murmurs, rubs, or [**Last Name (un) 4808**]
   ABD: + BS, soft, nontender
   Extremities: 1+ pre-tibial edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   136 K/uL
   10.0 g/dL
   117 mg/dL
   1.6 mg/dL
   24 mEq/L
   4.8 mEq/L
   34 mg/dL
   107 mEq/L
   140 mEq/L
   30.1 %
   89.6 K/uL
        [image002.jpg]
                             [**2117-2-14**]  12:06 AM
                             [**2117-2-14**]  01:34 AM
                             [**2117-2-14**]  09:01 AM
                             [**2117-2-14**]  04:40 PM
                             [**2117-2-15**]  12:17 AM
                             [**2117-2-15**]  04:10 AM
   WBC
   86.9
   95.3
   89.6
   Hct
   25.8
   30.0
   30.1
   Plt
   133
   118
   136
   Cr
   1.1
   1.8
   1.7
   1.5
   1.5
   1.6
   Glucose
   73
   132
   119
   95
   131
   117
   Other labs: PT / PTT / INR:16.0/28.3/1.4, ALT / AST:44/37, Alk Phos / T
   Bili:97/0.8, Differential-Neuts:71.0 %, Band:10.0 %, Lymph:7.0 %,
   Mono:3.0 %, Eos:3.0 %, LDH:453 IU/L, Ca++:8.8 mg/dL, Mg++:2.6 mg/dL,
   PO4:4.0 mg/dL
   MICROBIOLOGY
   Urine- pending
   Blood - pending
   Assessment and Plan
   87yo woman with h/o CAD, Afib on dofetalide, h/o v tach s/p PPM/ICD,
   CML on Gleevec but not taking, type 2 diabetes mellitus, CKD, who
   initially presented to the BMT service with vertigo and vomiting on
   [**2117-2-5**], and a white count of 173 thought to be due to untreated CML.
   Now transferred to the CCU for management of v tach.
   .
   # Ventricular Tachycardia: Etiology unclear although initial
   differential included tumor lysis syndrome, overdiuresis causing
   hypokalemia, discontinueation of dofetilide, hyperthyroidism.  However,
   the patient had another episode of v tach last night despite relatively
   normalized potassium levels making tumor lysis or hypokalemia less
   likely.  TSH was also checked and was normal.  Perhaps D/C of
   dofetilide is contributing. Per EP, pacer functioning appropriately. As
   above, last night the patient had v tach that was not paced out by her
   ATP function, so she received a large dose of amiodarone and was put on
   a lidocaine gtt, she was then manually overpaced by the EP fellow.
   - Continuous telemetry
   - stop lidocaine gtt
   - Continue amiodarone 400 mg [**Hospital1 **]
   - Continue to monitor electrolytes and correct PRN
   - discuss with EP and heme/onc restarting dofetilide (may defer this
   question to a later date)
   - Continue metoprolol 25mg PO BID
   - ICD set at overdrive pacing at rate of 128 with 8 escalating attempts
   until shock
   - F/U with EP (input is much appreciated)
   - Goals of care clarified with patient and HCP [**Name (NI) 3353**] (daughter), pt is
   ok with ICD shocks, but does not want any external interventions beyond
   such as shocks, CPR, or intubation, even if she becomes unstable.
   Therefore, she is DNR/DNI.
   .
   # CML: Patient's white count at 87, coming down after Gleevec. Not a
   good candidate for dasafinib given QT prolongation
   - Continue Gleevec at reduced dose of 300mg PO Daily (started [**2117-2-9**])
   - Prochlorazapine/zofran PRN nausea
   - tumor lysis labs Q daily
   - BMT recs
   - Allopurinol 150mg PO Daily for tumor lysis PPX (renally dosed)
   .
   # Chronic systolic heart failure: Patient appeared slightly
   hypervolemic. Diuresis initially held given v tach and electrolyte
   abnormalities.
   - Continue metoprolol 25mg PO BID
   - Hold Irbesartan *NF* 75 mg PO Daily given hyperkalemia and elevated
   creatinine, but will plan to restart
   .
   # AFib/AFlutter: dofetilide initially held because of renal failure. No
   active issues at present. Coumadin also was held for unclear reasons.
   - coumadin restarted at 2 mg q day (reduced dose given on amiodarone)
   - daily INR
   - Continue metoprolol 25mg PO BID
   .
   # Dysuria:
   - D/C foley and use bedside commode
   - UA and culture
   .
   # CKD: Stable, improved from baseline.
   - Monitor Cr
   .
   # CAD: No active issues.
   - Continue asa
   - No statin due to myopathy
   .
   # DM: No active issues.
   - Glargine 23 HS
   - SSI
   .
   # Hypothyroidism: No active issues. TSH normal.
   - Continue synthroid
   .
   # FEN: Cardiac/diabetic diet
   .
   # ACCESS:
   20 Gauge - [**2117-2-13**] 11:57 PM
   22 Gauge - [**2117-2-13**] 11:59 PM
   .
   # PROPHYLAXIS:
   -DVT ppx with pneumoboots for now
   -Pain management with acetaminophen
   -Bowel regimen with docusate/senna PRN
   .
   # CODE:  DNR/DNI but ICD to remain active
   .
   # COMM:  HCP is her daughter [**Name (NI) 3353**] [**Name (NI) 12380**]: [**Telephone/Fax (1) 12382**].  She DOES
   want her daughter notified regarding this current hospital admission.
   .
   # DISPO: CCU for now  given continued arrhythmia last night
 VENTRICULAR TACHYCARDIA, SUSTAINED
 CANCER (MALIGNANT NEOPLASM), OTHER
   ICU Care
   Nutrition:

2117-02-16 07:31:00 Physician Resident Progress Note
Chief Complaint: transfer for VTach
   24 Hour Events:
   [**2-15**] - [**2-16**]
   - stopped lidocaine
   - urinalysis showed WBCs so started ceftriaxone
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsPercocet (Oral)
   (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Lisinopril (Oral)
   Cough;
   Zetia (Oral) (Ezetimibe)
   Diarrhea;
   Lipitor (Oral) (Atorvastatin Calcium)
   liver blood tes
   Lovastatin
   muscle cramps;
   Doxepin
   Drowsiness/Fati
   Boniva (Oral) (Ibandronate Sodium)
   Nausea/Vomiting
   Gleevec (Oral) (Imatinib Mesylate)
   Nausea/Vomiting
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-2-16**] 05:01 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2117-2-15**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No CP or SOB. Feels
lousy
   Flowsheet Data as of  [**2117-2-16**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**18**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 85 (84 - 86) bpm
   BP: 100/50(61) {88/37(49) - 132/88(92)} mmHg
   RR: 21 (14 - 24) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 63 Inch
             Total In:
                                                                  1,138 mL
                                                                     50 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                    298 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    200 mL
   Urine:
                                                                  1,520 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -383 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General: alert, interactive,
   HEENT: MMM, no scleral icterus
   PULM: CTAB, no wheezes or rhales
   CV: RRR, no murmurs, rubs, or [**Last Name (un) 4808**]
   ABD: + BS, soft, nontender
   Extremities: trace edema
   Labs / Radiology
   117 K/uL
   9.8 g/dL
   109 mg/dL
   1.5 mg/dL
   25 mEq/L
   4.4 mEq/L
   37 mg/dL
   106 mEq/L
   139 mEq/L
   30.9 %
   76.9 K/uL
        [image002.jpg]
                             [**2117-2-14**]  12:06 AM
                             [**2117-2-14**]  01:34 AM
                             [**2117-2-14**]  09:01 AM
                             [**2117-2-14**]  04:40 PM
                             [**2117-2-15**]  12:17 AM
                             [**2117-2-15**]  04:10 AM
                             [**2117-2-16**]  02:52 AM
   WBC
   86.9
   95.3
   89.6
   76.9
   Hct
   25.8
   30.0
   30.1
   30.9
   Plt
   133
   118
   136
   117
   Cr
   1.1
   1.8
   1.7
   1.5
   1.5
   1.6
   1.5
   Glucose
   73
   132
   119
   95
   131
   117
   109
   Other labs: PT / PTT / INR:13.2/24.7/1.1, ALT / AST:40/29, Alk Phos / T
   Bili:101/0.7, Differential-Neuts:78.0 %, Band:6.0 %, Lymph:1.0 %,
   Mono:3.0 %, Eos:3.0 %, LDH:453 IU/L, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL,
   PO4:3.7 mg/dL
   Imaging: None
   Microbiology: Urine cx pending
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 URINARY TRACT INFECTION (UTI)
 VENTRICULAR TACHYCARDIA, SUSTAINED
 CANCER (MALIGNANT NEOPLASM), OTHER
   87yo woman with h/o CAD, Afib on dofetalide, h/o v tach s/p PPM/ICD,
   CML on Gleevec but not taking, type 2 diabetes mellitus, CKD, who
   initially presented to the BMT service with vertigo and vomiting on
   [**2117-2-5**], and a white count of 173 thought to be due to untreated CML.
   Now transferred to the CCU for management of v tach.
   .
   # Ventricular Tachycardia: Etiology unclear although initial
   differential included tumor lysis syndrome, overdiuresis causing
   hypokalemia, discontinueation of dofetilide, hyperthyroidism.  However,
   the patient had another episode of v tach last night despite relatively
   normalized potassium levels making tumor lysis or hypokalemia less
   likely.  TSH was also checked and was normal.  Perhaps D/C of
   dofetilide is contributing. Per EP, pacer functioning appropriately. As
   above, last night the patient had v tach that was not paced out by her
   ATP function, so she received a large dose of amiodarone and was put on
   a lidocaine gtt, she was then manually overpaced by the EP fellow.
   - Continuous telemetry
   - stopped lidocaine gtt yesterday
   - Continue amiodarone 400 mg [**Hospital1 **]
   - Continue to monitor electrolytes and correct PRN
   - discuss with EP and heme/onc restarting dofetilide (may defer this
   question to a later date)
   - Continue metoprolol 25mg PO BID
   - ICD set at overdrive pacing at rate of 128 with 8 escalating attempts
   until shock
   - F/U with EP (input is much appreciated)
   - Goals of care clarified with patient and HCP [**Name (NI) 3353**] (daughter), pt is
   ok with ICD shocks, but does not want any external interventions beyond
   such as shocks, CPR, or intubation, even if she becomes unstable.
   Therefore, she is DNR/DNI.
   .
   # CML: Patient's white count at 87, coming down after Gleevec. Not a
   good candidate for dasafinib given QT prolongation
   - Continue Gleevec at reduced dose of 300mg PO Daily (started [**2117-2-9**])
   - Prochlorazapine/zofran PRN nausea
   - tumor lysis labs Q daily
 have been stable
   - BMT recs
   - Allopurinol 150mg PO Daily for tumor lysis PPX (renally dosed)
   .
   # Chronic systolic heart failure: Patient appeared slightly
   hypervolemic. Diuresis initially held given v tach and electrolyte
   abnormalities.
   - Restart lasix 40mg PO Daily
   - Continue metoprolol 25mg PO BID
   - Hold Irbesartan *NF* 75 mg PO Daily given hyperkalemia and elevated
   creatinine, but will plan to restart
   .
   # AFib/AFlutter: dofetilide initially held because of renal failure. No
   active issues at present. Coumadin also was held for unclear reasons.
   - coumadin restarted at 2 mg q day (reduced dose given on amiodarone)
   - daily INR
   - Continue metoprolol 25mg PO BID
   .
   # Dysuria:
   - Ceftriaxone 1gm IV Q24
   - D/C foley and use bedside commode
   - F/u culture
   .
   # CKD: Stable, improved from baseline.
   - Monitor Cr
   .
   # CAD: No active issues.
   - Continue asa
   - No statin due to myopathy
   .
   # DM: No active issues.
   - Glargine 23 HS
   - SSI
   .
   # Hypothyroidism: No active issues. TSH normal.
   - Continue synthroid
   .
   # FEN: Cardiac/diabetic diet
   .
   # ACCESS:
   20 Gauge - [**2117-2-13**] 11:57 PM
   .
   # PROPHYLAXIS:
   -DVT ppx with pneumoboots for now
   -Pain management with acetaminophen
   -Bowel regimen with docusate/senna PRN
   .
   # CODE:  DNR/DNI but ICD to remain active. Consider readdressing goals
   of care as pt is miserable and may prefer a more palliative approach.
   .
   # COMM:  HCP is her daughter [**Name (NI) 3353**] [**Name (NI) 12380**]: [**Telephone/Fax (1) 12382**].  She DOES
   want her daughter notified regarding this current hospital admission.
   .
   # DISPO: Call out to medicine
   ICU Care
   Nutrition: Diabetic/cardiac
   Glycemic Control:
   Lines:
   20 Gauge - [**2117-2-15**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : Transfer to medicine service